US04119710
1-(4'-Amino-3'-fluoro-5'-iodo-phenyl)-2-cyclopropylamino-ethanol,
m.p. of the hydrochloride: 199°-201° C. (decomp.), was prepared from 4'-amino-2-cyclopropylamino-3'-fluoro-5'-iodo-acetophenone and sodium borohydride analogous to Example 49.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-2-cyclopropylamino-3'-fluoro-5'-iodo-acetophenone | NC1=C(C=C(C=C1I)C(CNC1CC1)=O)F | C11H12FIN2O
reactant | sodium borohydride | [BH4-].[Na+]
product | 1-(4'-Amino-3'-fluoro-5'-iodo-phenyl)-2-cyclopropylamino-ethanol | NC1=C(C=C(C=C1I)C(CNC1CC1)O)F | C11H14FIN2O
